* NGSPICE file created from sky130_ef_sc_hd__decap_12.ext - technology: sky130A

.subckt sky130_ef_sc_hd__decap_12 VGND VPWR VPB VNB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.226 pd=2.26 as=0.452 ps=4.52 w=0.87 l=4.73
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0.286 ps=3.24 w=0.55 l=4.73
.ends

